US07276516B2
Add N-(4-Fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide (268 mg, 0.0.50 mmol), 2-chlorophenylboronic acid (78.2 mg, 0.50 mmol), PdCl2 (dppf).CH2Cl2 (41 mg, 0.05 mmol) and 2M Na2CO3 (0.55 mL, 1.1 mmol) respectively to DMF (15.0 mL) at ambient temperature under N2. Heat the reaction to 100° C. for 16 h. Cool the reaction to ambient temperature and pour into a H2O-EtOAc mixture (200 mL/100 mL). Separate the EtOAc, extract several times with H2O and wash with brine. Dry (MgSO4), filter and evaporate the filtrate. Purify the crude material on silica gel using a gradient hexane-EtOAc system to give 0.155 g (60% yield) of 4-[3-(2-chloro-phenyl)-indole-1-sulfonyl]-N-(4-fluoro-benzyl)-benzamide: Mass spectrum (m/e)M−1) 517.0787.

reactant | N-(4-Fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide | 268 mg | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)I)=O)C=C1 | C22H16FIN2O3S
reactant | 2-chlorophenylboronic acid | 0.50 mmol, 78.2 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | CH2Cl2 | 0.05 mmol, 41 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 1.1 mmol, 2M, 0.55 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2 | Cl[Pd]Cl
solvent | H2O EtOAc | 200 mL | O.CCOC(=O)C
solvent | DMF | 15.0 mL | CN(C)C=O | C3H7NO
product | 4-[3-(2-chloro-phenyl)-indole-1-sulfonyl]-N-(4-fluoro-benzyl)-benzamide | 0.155 g, 60% yield | ClC1=C(C=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C28H20ClFN2O3S
